US05476860
a) Benzyl 2-(2-methoxyethoxymethoxy)-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate
1.65 g (55 mmol) of sodium hydride (80% in oil) and 50 ml of DMF are introduced into a flask. A solution of 23.6 g (50 mmol) of allyl 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl methoxy)benzoate in 200 ml of DMF is added dropwise and the mixture is stirred until evolution of gas has ceased. 6.3 ml (55 mmol) of 2-methoxy ethoxymethyl chloride are then added dropwise and the reaction mixture is stirred for 2 hours. It is poured into water and extracted with ethyl ether, and the organic phase is separated, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column, eluted with a mixture of dichloromethane/ethyl ether (98:2). After evaporation of the solvents, 19.2 g (69%) of the expected ester are collected in the form of a slightly yellow oil.

reactant | sodium hydride | 55 mmol, 1.65 g | [H-].[Na+]
reactant | allyl 2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl methoxy)benzoate | 50 mmol, 23.6 g | OC1=C(C(=O)OCC=C)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C26H30O5
reactant | 2-methoxy ethoxymethyl chloride | 55 mmol, 6.3 ml | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Benzyl 2-(2-methoxyethoxymethoxy)-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzoate | COCCOCOC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C34H40O7
